US09216964B2
To the reaction vessel containing 5-Bromo-2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinoline (460 mg, 1.4 mmol), 3-(6-methoxypyridazin-3-yl)-4-methylaniline (300 mg, 1.4 mmol), Pd2(dba)3 (128 mg, 0.14 mmol), Xantphos (162 mg, 0.28 mmol) and K3PO4 (740 mg, 3.5 mmol) is added anhydrous dioxane. The vessel is flushed with nitrogen, sealed and heated to 100° C. for 15 hours. The reaction is then cooled to ambient temperature, filtered through a celite pad to remove any solids. The filtrate is concentrated and purified by silica gel flash chromatography to afford [2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinolin-5-yl]-[3-(6-methoxy-pyridazin-3-yl)-4-methyl-phenyl]-amine as an off-white solid. MS m/z 465.2 (M+1); 1H NMR 400 MHz (DMSO-d6) δ 7.73 (d, 1H, J=6.0 Hz), 7.32 (s, 1H), 7.27 (d, 1H, J=6.0 Hz), 7.16 (d, 1H, J=5.6 Hz), 7.04 (m, 2H), 6.95 (m, 2H), 6.69 (dd, 1H, J1=4.4 Hz, J2=2.8 Hz), 4.07 (s, 3H), 3.72 (d, 1H, J=15.0 Hz), 3.65 (d, 1H, J=15.0 Hz), 3.41 (m, 2H), 3.29 (m, 1H), 3.13 9m, 2H), 2.77 (m, 2H), 2.66 (t, 2H, J=6.0 Hz), 2.43 (m, 1H), 2.18 (s, 3H), 2.11 (m, 1H).

reactant | 5-Bromo-2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinoline | 1.4 mmol, 460 mg | BrC1=C2CCN(CC2=CC=C1)C1CS(CC1)(=O)=O | C13H16BrNO2S
reactant | 3-(6-methoxypyridazin-3-yl)-4-methylaniline | 1.4 mmol, 300 mg | COC1=CC=C(N=N1)C=1C=C(N)C=CC1C | C12H13N3O
reactant | Xantphos | 0.28 mmol, 162 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 3.5 mmol, 740 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.14 mmol, 128 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [2-(1,1-dioxo-tetrahydro-thiophen-3-yl)-1,2,3,4-tetrahydro-isoquinolin-5-yl]-[3-(6-methoxy-pyridazin-3-yl)-4-methyl-phenyl]-amine | O=S1(CC(CC1)N1CC2=CC=CC(=C2CC1)NC1=CC(=C(C=C1)C)C=1N=NC(=CC1)OC)=O | C25H28N4O3S
